### PR TITLE
[Merged by Bors] - feat(Algebra/Polynomial/Degree/IsMonicOfDegree): new file

### PR DESCRIPTION
**Pull request by MichaelStollBayreuth**
This adds a predicate `Polynomial.IsMonicOfDegree p n` expressing that the polynomial `p` is monic and has `natDegree` equal to `n` and provides some API for it.

Bundling the two properties is quite convenient (e.g., showing that the product of two monic polynomials of degrees `m` and `n` is monic of degree `m+n` needs a few lines with the currently available API) and proved very helpful for formalizing a proof of the Gelfand-Mazur theorem over the reals.

See also here on Zulip : [#mathlib4 > Gelfand-Mazur theorem @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Gelfand-Mazur.20theorem/near/525404185).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Polynomial/Degree/IsMonicOfDegree.lean [hunk 1]
```diff
@@ -0,0 +1,269 @@
...
+  · rw [H, isMonicOfDegree_zero]
+
+lemma isMonicOfDegree_iff {R : Type*} [Semiring R] [Nontrivial R] (p : R[X]) (n : ℕ) :
+    IsMonicOfDegree p n ↔ p.natDegree ≤ n ∧ p.coeff n = 1 := by
+  simp only [IsMonicOfDegree]
+  refine ⟨fun ⟨H₁, H₂⟩ ↦ ⟨H₁.le, H₁ ▸ Monic.coeff_natDegree H₂⟩, fun ⟨H₁, H₂⟩ ↦ ⟨?_, ?_⟩⟩
+  · exact natDegree_eq_of_le_of_coeff_ne_zero H₁ <| H₂ ▸ one_ne_zero
+  · exact monic_of_natDegree_le_of_coeff_eq_one n H₁ H₂
+
+lemma IsMonicOfDegree.exists_natDegree_lt {R : Type*} [Semiring R] {p : R[X]} {n : ℕ}
```
Comment (adomani) [inline Mathlib/Algebra/Polynomial/Degree/IsMonicOfDegree.lean]: This could potentially be tied in with `eraseLead`, as the "existing" polynomial.

File: Mathlib/Algebra/Polynomial/Degree/IsMonicOfDegree.lean [hunk 2]
```diff
@@ -0,0 +1,269 @@
...
+    p.coeff m = q.coeff m := by
+  nontriviality R
+  rw [isMonicOfDegree_iff] at hp hq
+  rcases eq_or_lt_of_le hm with rfl | hm
+  · rw [hp.2, hq.2]
+  · replace hp : p.natDegree < m := hp.1.trans_lt hm
+    replace hq : q.natDegree < m := hq.1.trans_lt hm
+    rw [coeff_eq_zero_of_natDegree_lt hp, coeff_eq_zero_of_natDegree_lt hq]
+
+lemma IsMonicOfDegree.of_mul_left {R : Type*} [Semiring R] {p q : R[X]} {m n : ℕ}
```
Comment (adomani) [inline Mathlib/Algebra/Polynomial/Degree/IsMonicOfDegree.lean]: Is this an `iff` between `hpq` and the current conclusion?

File: Mathlib/Algebra/Polynomial/Degree/IsMonicOfDegree.lean [hunk 3]
```diff
@@ -0,0 +1,269 @@
...
+  have h₂ : p.Monic := hq.2.of_mul_monic_right hpq.2
+  refine ⟨?_, h₂⟩
+  have := hpq.1
+  have h : p.leadingCoeff * q.leadingCoeff ≠ 0 := by
+    rw [h₂.leadingCoeff, hq.leadingCoeff_eq, one_mul]
+    exact one_ne_zero
+  rw [natDegree_mul' h, hq.1] at this
+  exact (Nat.add_right_cancel this.symm).symm
+
+lemma IsMonicOfDegree.add_right {R : Type*} [Semiring R] {p q : R[X]} {n : ℕ}
```
Comment (adomani) [inline Mathlib/Algebra/Polynomial/Degree/IsMonicOfDegree.lean]: This one is also an `iff`, right?

File: Mathlib/Algebra/Polynomial/Degree/IsMonicOfDegree.lean [hunk 4]
```diff
@@ -0,0 +1,269 @@
...
+  induction n with
+  | zero => simp
+  | succ n ih =>
+    rw [pow_succ, mul_add, mul_one]
+    exact ih.mul hp
+
+lemma isMonicOfDegree_X (R : Type*) [Semiring R] [Nontrivial R] : IsMonicOfDegree (X : R[X]) 1 :=
+  (isMonicOfDegree_iff ..).mpr ⟨natDegree_X_le, coeff_X_one⟩
+
+lemma isMonicOfDegree_X_pow (R : Type*) [Semiring R] [Nontrivial R] (n : ℕ) :
```
Comment (adomani) [inline Mathlib/Algebra/Polynomial/Degree/IsMonicOfDegree.lean]: What do you think of adding `isMonicOfDegree_monomial` as well?

File: Mathlib/Algebra/Polynomial/Degree/IsMonicOfDegree.lean (hunk 1 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Algebra/Polynomial/Degree/IsMonicOfDegree.lean]: OK; I was not aware of `eraseLead`.

Comment (MichaelStollBayreuth) [reply Mathlib/Algebra/Polynomial/Degree/IsMonicOfDegree.lean]: (This should avoid the import of Mathlib.Algebra.Polynomial.BigOperators.)

File: Mathlib/Algebra/Polynomial/Degree/IsMonicOfDegree.lean (hunk 4 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Algebra/Polynomial/Degree/IsMonicOfDegree.lean]: OK.

File: Mathlib/Algebra/Polynomial/Degree/IsMonicOfDegree.lean (hunk 2 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Algebra/Polynomial/Degree/IsMonicOfDegree.lean]: It is really that any two of `IsMonicOfDegree p m`, `IsMonicOfDegree q n` and `IsMonicOfDegree (p * q) (m + n)` imply the third (the three cases are `.mul`, `.of_mul_left` and `.of_mul_right`). I don't think there is a convenient way to express this.

File: Mathlib/Algebra/Polynomial/Degree/IsMonicOfDegree.lean (hunk 3 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Algebra/Polynomial/Degree/IsMonicOfDegree.lean]: See above.

File: Mathlib/Algebra/Polynomial/Degree/IsMonicOfDegree.lean [hunk 5]
```diff
@@ -0,0 +1,275 @@
...
+This file defines the predicate `Polynomial.IsMonicOfDegree p n` that states that
+the polynomial `p` is monic and has degree `n` (i.e., `p.natDegree = n`.)
+
+We also provide some basic API.
+-/
+
+namespace Polynomial
+
+/-- This says that `p` has `natDegree` `n` and is monic. -/
+def IsMonicOfDegree {R : Type*} [Semiring R] (p : R[X]) (n : ℕ) : Prop :=
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Polynomial/Degree/IsMonicOfDegree.lean]: Have you thought about using a structure here?

File: Mathlib/Algebra/Polynomial/Degree/IsMonicOfDegree.lean [hunk 6]
```diff
@@ -0,0 +1,275 @@
...
+  p.natDegree = n ∧ p.Monic
+
+lemma IsMonicOfDegree.monic {R : Type*} [Semiring R] {p : R[X]} {n : ℕ}
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Polynomial/Degree/IsMonicOfDegree.lean]: Can you please use a `variable {R : Type*} ...` line?

Comment (riccardobrasca) [reply Mathlib/Algebra/Polynomial/Degree/IsMonicOfDegree.lean]: And also opening a namespace seems a good idea.

File: Mathlib/Algebra/Polynomial/Degree/IsMonicOfDegree.lean (hunk 5 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Algebra/Polynomial/Degree/IsMonicOfDegree.lean]: Not really. What would be the benefits of doing that?

File: Mathlib/Algebra/Polynomial/Degree/IsMonicOfDegree.lean (hunk 6 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Algebra/Polynomial/Degree/IsMonicOfDegree.lean]: Re namespace: not all declarations are in the `Polynomial.IsMonicOfDegree` namespace; there are some with names of the form `Polynomial.isMonicOfDegree_xxx`, and there is no natural grouping.
So I think it is clearer without opening and closing the namespace repeatedly.

Comment (MichaelStollBayreuth) [reply Mathlib/Algebra/Polynomial/Degree/IsMonicOfDegree.lean]: Re variables: I have sorted the lemmas according to their assumptions on `R` and added `section`s and `variable` lines accordingly. I could also group together the lemmas that require `[Nontrivial R]` at the end of the  `Semiring` section if you think this makes sense.

File: Mathlib/Algebra/Polynomial/Degree/IsMonicOfDegree.lean (hunk 5 above)
Comment (riccardobrasca) [reply Mathlib/Algebra/Polynomial/Degree/IsMonicOfDegree.lean]: You get for free `IsMonicOfDegree.monic` and `IsMonicOfDegree.natDegree_eq` (and `@[mk_iff]` should automatically generate the relevant iff lemma).

Comment (MichaelStollBayreuth) [reply Mathlib/Algebra/Polynomial/Degree/IsMonicOfDegree.lean]: OK; I will change that (have to teach now, though...).

Comment (MichaelStollBayreuth) [reply Mathlib/Algebra/Polynomial/Degree/IsMonicOfDegree.lean]: Done.

File: Mathlib/Algebra/Polynomial/Degree/IsMonicOfDegree.lean (hunk 6 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Algebra/Polynomial/Degree/IsMonicOfDegree.lean]: I did that now (grouping `[Nontrivial R]` lemmas, except `isMonicOfDegree_iff`, which is needed earlier).

File: Mathlib/Algebra/Polynomial/Degree/IsMonicOfDegree.lean [hunk 7]
```diff
@@ -0,0 +1,277 @@
...
+variable [Semiring R]
+
+/-- This says that `p` has `natDegree` `n` and is monic. -/
+@[mk_iff isMonicOfDegree_iff']
+structure IsMonicOfDegree (p : R[X]) (n : ℕ) : Prop where
+  natDegree_eq : p.natDegree = n
+  monic : p.Monic
+
+@[simp]
+lemma isMonicOfDegree_zero {p : R[X]} : IsMonicOfDegree p 0 ↔ p = 1 := by
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Polynomial/Degree/IsMonicOfDegree.lean]:
```suggestion
lemma isMonicOfDegree_zero_iff {p : R[X]} : IsMonicOfDegree p 0 ↔ p = 1 := by
```

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+
